2131-10-05 09:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 y/o with h/o COPD, AAA, HTN presented to PCP [**Name Initial (PRE) **] 4 days of dyspnea.
   Admitted to hospital, tx with solumedrol and nebs x 2 days.  Then
   became tachypneic with ABG 7.38/48/86 and lactate of 3.4, which
   prompted MICU transfer for COPD exacerbation.
   24 Hour Events:
   - BiPap overnight for worsening tachypnea.  Off since 8am.
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Atrovent nebs/Albuterol nebs, Methylprednisone 25mg q8, Azithromycin,
   SQ heparin, allopurinol, vit D, Atorvastatin, RISS, Nicotine TD, Ambien
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-5**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.2
   HR: 102 (90 - 114) bpm
   BP: 117/66(79) {108/64(76) - 157/98(109)} mmHg
   RR: 22 (22 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             500 mL
   PO:
             TF:
   IVF:
   500 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.40/48/91.[**Numeric Identifier **]/27/3
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   15.3 g/dL
   198 K/uL
   204 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.6 mEq/L
   21 mg/dL
   99 mEq/L
   137 mEq/L
   43.9 %
   10.6 K/uL
        [image002.jpg]
                            [**2131-10-5**]  12:26 AM
                            [**2131-10-5**]  04:30 AM
   WBC
   10.6
   Hct
   43.9
   Plt
   198
   Cr
   0.8
   TCO2
   31
   Glucose
   204
   Other labs: Lactic Acid:1.8 mmol/L
   Imaging: CXR - Hyperinflation.
   Microbiology: No culture data.
   Assessment and Plan
   This is a 65 y.o male with long smoking history and COPD who presents
   with dyspnea of 4 days duration that is consistent with a COPD
   exacerbation.  Transferred to ICU out of concern for tachypnea and
   increased work of breathing
   # COPD exacerbation - Patient currently with good oxygen saturation.
   continues with pursed lip breathing but no signs of respiratory
   distress.  No need for BIPAP at this time. will cont to monitor
   - hold tiotropium currently given that we are giving ipratropium.
   - will continue pulse steroids at 125mg solu-medrol q8h.
   - azithromycin 500mg x 3 days.
   - Albuterol nebs q3h
   - Ipratropium nebs q6h
   # Hyperlipidemia - continue on lipitor 10mg daily.
   # Gout - continue on allopurinol.
   # Osteoporosis
   - continue Vit D
   # Abdorminal aortic aneurysm - no acute issue
   # Chronic back pain - continue percocet 1-2 tabs q8h PRN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2131-10-4**] 11:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2131-10-07 06:42:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   -put out 1L to 20 IV lasix x1
   -intubated for hypoxia, couldn't tolerate BiPap
   -EKG unchanged from baseline
   CTA:
   1. No acute PE.
   2. Focal patchy in LLL, concerning for PNA.
   3. Known AAA is noted, but incompletely evaluated.
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-7**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 90 (89 - 117) bpm
   BP: 96/62(74) {84/53(64) - 105/62(76)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     63 mL
                                                                    130 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    260 mL
   Urine:
                                                                  1,310 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,247 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 699 (699 - 699) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 17 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/61/155/33/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   13.9 g/dL
   187 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   23 mg/dL
   101 mEq/L
   140 mEq/L
   39.9 %
   12.5 K/uL
        [image002.jpg]
                            [**2131-10-5**]  12:26 AM
                            [**2131-10-5**]  04:30 AM
                            [**2131-10-6**]  05:51 PM
                            [**2131-10-6**]  07:24 PM
                            [**2131-10-6**]  11:11 PM
                            [**2131-10-7**]  01:05 AM
                            [**2131-10-7**]  02:12 AM
                            [**2131-10-7**]  04:14 AM
   WBC
   10.6
   12.5
   Hct
   43.9
   39.9
   Plt
   198
   164
   Cr
   0.8
   0.8
   TropT
   0.01
   0.04
   TCO2
   31
   35
   36
   40
   37
   Glucose
   204
   187
   Other labs: CK / CKMB / Troponin-T:90/10/0.04, Lactic Acid:1.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
   65 y.o male with long smoking history and COPD who presents with
   dyspnea of 4 days duration that is consistent with a COPD
   exacerbation.  Transferred to ICU out of concern for tachypnea and
   increased work of breathing that has acutely worsened over the past 24
   hours.
   .
   .
   # Tachypnea - Patient sounds wheezy, using accessory muscles prior to
   transfer. Currently with fair oxygen saturation.  Continues with pursed
   lip breathing and mild respiratory distress. Most likely COPD
   exacerbation, given lung exam. Did not receive IV fluids on the floor.
   Does not appear fluid overloaded. No evidence of pneumonia on CXR.
   Afebrile. PE on the differential, though without risk factors.
   Currently hemodynamically stable. No need for BIPAP at this time. will
   cont to monitor
   - sputum culture
   - AM CXR
   - will continue pulse steroids at 125mg solu-medrol q8h.
   - azithromycin 500mg x 3 days.
   - Albuterol nebs q3h
   - Ipratropium nebs q6h
   - I/Os goal -500cc -give 20 IV lasix x1
   - f/u EKG. ROMI.
   - consider CTA if the above are negative.
   .
   # Hyperlipidemia - continue on lipitor 10mg daily.
   .
   # Gout - continue on allopurinol.
   .
   # Osteoporosis
   - continue Vit D
   .
   # Abdorminal aortic aneurysm - no acute issue
   .
   # Chronic back pain - continue percocet 1-2 tabs q8h PRN
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: PIV
   .
   # Code: Full Code
   .
   # Communication: with patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-10-6**] 10:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2131-10-07 07:57:00 Physician Attending Progress Note
Chief Complaint: COPD, PNA
   HPI:
    See admit note
   I saw and examined the patient, and was physically present with the Dr.
   [**Last Name (STitle) 7195**] for key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   24 Hour Events:
   - Increased work of breathing
   - Unable to tolerate BiPAP
   - Given lasix
   - Altered MS
   - Intubated
   - CT-PE negative for PE, possible LLL infiltrate
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vanco, Cefepime, Levo
 Pending
   Azithromycin
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Hep sc, Chlorhexidine
   Other medications:
   Lipitor, Allopurinal, Solumedrol 125 q8h, albuterol neb q3h, ipra nebs
   q6h
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-7**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 88 (88 - 117) bpm
   BP: 92/59(70) {84/53(64) - 105/62(76)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     63 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                     63 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    285 mL
   Urine:
                                                                  1,310 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,247 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 699 (699 - 699) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 17 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/61/155/33/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: palpable), (Left radial
   pulse: palpable),
   Respiratory / Chest: (Breath Sounds: Wheezes throughout , Diminished:
   Soft throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.9 g/dL
   164 K/uL
   187 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   23 mg/dL
   101 mEq/L
   140 mEq/L
   39.9 %
   12.5 K/uL
        [image002.jpg]
                            [**2131-10-5**]  12:26 AM
                            [**2131-10-5**]  04:30 AM
                            [**2131-10-6**]  05:51 PM
                            [**2131-10-6**]  07:24 PM
                            [**2131-10-6**]  11:11 PM
                            [**2131-10-7**]  01:05 AM
                            [**2131-10-7**]  02:12 AM
                            [**2131-10-7**]  04:14 AM
   WBC
   10.6
   12.5
   Hct
   43.9
   39.9
   Plt
   198
   164
   Cr
   0.8
   0.8
   TropT
   0.01
   0.04
   TCO2
   31
   35
   36
   40
   37
   Glucose
   204
   187
   Other labs: CK / CKMB / Troponin-T:90/10/0.04, Lactic Acid:1.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   PE CT
 No PE, LLL reticular infiltrate
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  Worsened while on floor, possibly due to new
   LLL infiltrate.  Intubated due to worsening mental status and inability
   to tolerate BiPAP
   - Solumedrol 125 q8h
   - Albuterol nebs q3h, Ipra q6h
   - Vanco, cefepime, levoflox for LLL infiltrate
   - Checking sputum culture, viral swabs
   - On vent, 16/400/8/0.4
 PEEP of 8 as didn
t tolerate lower PEEP
   (?auto-PEEP), once less sedated consider trial of PSV
   # Hypotension
 Appears dry on exam, on sedation, will give IVF, goal
   MAP >65
 Hyperlipidemia
 Continue Lipitor
 GOUT:  On allopurinol.
   ICU Care
   Nutrition:
   NPO, getting nutrition
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-10-6**] 10:08 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: Will start PPI
   VAP: HOB to 30 degrees, chlorhexidine
   Comments:
   Communication:  Comments: In touch with son
   [**Name (NI) 129**] status: Full
   Disposition : ICU
   Pt is critically Ill.
   Total time spent: 30min

2131-10-08 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Sputum Re-sent for Viral Culture.  Intial Culture not adequate
   Patient weaned to Pressure Support, but was noted to be sitting up in
   bed and seemed uncomfortable,  now on MMV.
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-7**] 08:13 AM
   Levofloxacin - [**2131-10-7**] 09:30 AM
   Cefipime - [**2131-10-7**] 10:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-8**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 74 (65 - 101) bpm
   BP: 115/60(81) {82/51(62) - 140/81(103)} mmHg
   RR: 9 (6 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,203 mL
                                                                    643 mL
   PO:
             TF:
   IVF:
                                                                  2,843 mL
                                                                    643 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    210 mL
   Urine:
                                                                    935 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,268 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 700 (500 - 700) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 26
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 93%
   ABG: ///28/
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   13.3 g/dL
   100 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   39.0 %
   14.9 K/uL
        [image002.jpg]
                            [**2131-10-5**]  12:26 AM
                            [**2131-10-5**]  04:30 AM
                            [**2131-10-6**]  05:51 PM
                            [**2131-10-6**]  07:24 PM
                            [**2131-10-6**]  11:11 PM
                            [**2131-10-7**]  01:05 AM
                            [**2131-10-7**]  02:12 AM
                            [**2131-10-7**]  04:14 AM
                            [**2131-10-8**]  03:36 AM
   WBC
   10.6
   12.5
   14.9
   Hct
   43.9
   39.9
   39.0
   Plt
   198
   164
   183
   Cr
   0.8
   0.8
   0.7
   TropT
   0.01
   0.04
   TCO2
   31
   35
   36
   40
   37
   Glucose
   [**Telephone/Fax (3) 9343**]
   Other labs: CK / CKMB / Troponin-T:90/10/0.04, Lactic Acid:1.8 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
   65 y.o male with long smoking history and COPD who presents with
   dyspnea of 4 days duration that is consistent with a COPD
   exacerbation.  Transferred to ICU out of concern for tachypnea and
   increased work of breathing that has acutely worsened over the past 24
   hours.
   .
   # Hypoxic respiratory failure
 secondary to COPD exacerbation. However
   patient has been maintained on nebulizers and solumedrol, and acutely
   worse over the past 24  hours.  CTA negative for PE, but shows mild
   pneumonia.  Put out well to 20 mg IV lasix.  Currently hemodynamically
   stable.  GPCs on gram stain, culture/speciation pending
   -Vanc, Cefepime, Levofloxacin for HAP (day 1 = [**10-7**])
   - f/u culture data
   - obtain respiratory rpt viral swab
   - Switch to Prednisone 60mg po daily from solumedrol d1=[**10-7**] of 5 day
   course
   - d/c azithromycin given above abx regimen
   - CHANGE NEBS TO STANDING
   - I/Os goal -500cc if BP tolerates
   - attempt to wean down peep over the course of the day if patient
   tolerates; consider bridging w/ BIPAP
   .
   # Hyperlipidemia - continue on lipitor 10mg daily.
   .
   # Gout - continue on allopurinol.
   .
   # Osteoporosis
   - continue Vit D
   .
   # Abdorminal aortic aneurysm - no acute issue
   .
   # Chronic back pain - continue percocet 1-2 tabs q8h PRN
   .
   # FEN: No IVF, replete electrolytes, NPO
nutrition consult
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: PIV x2, A line
   .
   # Code: Full Code
   .
   # Communication: with patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-10-6**] 10:08 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2131-10-08 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, COPD
   24 Hour Events:
   No acute events.
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-7**] 08:13 AM
   Levofloxacin - [**2131-10-7**] 09:30 AM
   Cefipime - [**2131-10-7**] 10:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-8**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 76 (65 - 101) bpm
   BP: 130/63(88) {84/55(70) - 140/81(103)} mmHg
   RR: 12 (6 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,203 mL
                                                                    748 mL
   PO:
             TF:
   IVF:
                                                                  2,843 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    385 mL
   Urine:
                                                                    935 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,268 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 643 (500 - 700) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 26
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/61/155 on FiO2 50%
   Ve: 4.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   183 K/uL
   100 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   39.0 %
   14.9 K/uL
        [image002.jpg]
                            [**2131-10-5**]  12:26 AM
                            [**2131-10-5**]  04:30 AM
                            [**2131-10-6**]  05:51 PM
                            [**2131-10-6**]  07:24 PM
                            [**2131-10-6**]  11:11 PM
                            [**2131-10-7**]  01:05 AM
                            [**2131-10-7**]  02:12 AM
                            [**2131-10-7**]  04:14 AM
                            [**2131-10-8**]  03:36 AM
   WBC
   10.6
   12.5
   14.9
   Hct
   43.9
   39.9
   39.0
   Plt
   198
   164
   183
   Cr
   0.8
   0.8
   0.7
   TropT
   0.01
   0.04
   TCO2
   31
   35
   36
   40
   37
   Glucose
   [**Telephone/Fax (3) 9343**]
   Other labs: CK / CKMB / Troponin-T:90/10/0.04, Lactic Acid:1.8 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Imaging: CT - Bibasilar infiltrates L>R, CXR - hyperinflation.
   Microbiology: Sputum GS - >25 polys, <10 epis, GPCC
   Assessment and Plan
   66 y/o M w/ COPD exacerbation and superimposed b/l LL PNA, now
   intubated for respiratory distress.
   # COPD:  Worsened while on floor, possibly due to new lower lobe
   infiltrate.  Intubated due to worsening mental status and inability to
   tolerate BiPAP
   - Continue steroids
 taper to pred 60 daily, Albuterol nebs q3h, Ipra
   q6h,
   - Vanco, cefepime, levoflox for LLL infiltrate
   - F/U sputum culture, viral swabs
   - Consider trial of PSV 5/5 with lightened sedation
   # Hyperlipidemia
 Continue Lipitor
   # Gout:  On allopurinol.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-10-6**] 10:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-10-09 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2131-10-8**] 12:32 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2131-10-8**] 04:00 PM
 INVASIVE VENTILATION - STOP [**2131-10-8**] 04:00 PM
   - sputum speciated pneumococcus
   - self-extubated yesterday morning: subsequent ABGs showed adequate
   oxygenation and ventilation; didn't need bipap
   - flu negative
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2131-10-8**] 10:10 AM
   Cefipime - [**2131-10-8**] 02:11 PM
   Vancomycin - [**2131-10-8**] 08:40 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-10-8**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2131-10-8**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-9**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 78 (61 - 104) bpm
   BP: 140/66(93) {114/51(75) - 156/114(121)} mmHg
   RR: 21 (6 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,458 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                  1,398 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                    680 mL
   Urine:
                                                                  2,080 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -622 mL
                                                                   -608 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 894 (643 - 894) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.41/43/81.[**Numeric Identifier **]/30/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), decreased breath sounds throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   164 K/uL
   13.0 g/dL
   125 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   17 mg/dL
   104 mEq/L
   141 mEq/L
   39.0 %
   8.2 K/uL
        [image002.jpg]
                            [**2131-10-6**]  07:24 PM
                            [**2131-10-6**]  11:11 PM
                            [**2131-10-7**]  01:05 AM
                            [**2131-10-7**]  02:12 AM
                            [**2131-10-7**]  04:14 AM
                            [**2131-10-8**]  03:36 AM
                            [**2131-10-8**]  11:48 AM
                            [**2131-10-8**]  03:22 PM
                            [**2131-10-8**]  05:08 PM
                            [**2131-10-9**]  04:50 AM
   WBC
   12.5
   14.9
   8.2
   Hct
   39.9
   39.0
   39.0
   Plt
   164
   183
   164
   Cr
   0.8
   0.7
   0.5
   TropT
   0.01
   0.04
   TCO2
   36
   40
   37
   29
   26
   28
   Glucose
   187
   100
   125
   Other labs: CK / CKMB / Troponin-T:90/10/0.04, Lactic Acid:0.8 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
   65 y.o male with long smoking history and COPD who presents with
   dyspnea of 4 days duration that is consistent with a COPD
   exacerbation.  Transferred to ICU out of concern for tachypnea and
   increased work of breathing that has acutely worsened over the past 24
   hours.
   .
   # Hypoxic respiratory failure
 secondary to COPD exacerbation. However
   patient has been maintained on nebulizers and solumedrol, and acutely
   worse over the past 24  hours.  CTA negative for PE, but shows mild
   pneumonia.  Put out well to 20 mg IV lasix.  Currently hemodynamically
   stable.  GPCs on gram stain, culture/speciation pending
   -Vanc, Cefepime, Levofloxacin for HAP (day 1 = [**10-7**])
   - f/u culture data
   - obtain respiratory rpt viral swab
   - Switch to Prednisone 60mg po daily from solumedrol d1=[**10-7**] of 5 day
   course
   - d/c azithromycin given above abx regimen
   - CHANGE NEBS TO STANDING
   - I/Os goal -500cc if BP tolerates
   - attempt to wean down peep over the course of the day if patient
   tolerates; consider bridging w/ BIPAP
   .
   # Hyperlipidemia - continue on lipitor 10mg daily.
   .
   # Gout - continue on allopurinol.
   .
   # Osteoporosis
   - continue Vit D
   .
   # Abdorminal aortic aneurysm - no acute issue
   .
   # Chronic back pain - continue percocet 1-2 tabs q8h PRN
   .
   # FEN: No IVF, replete electrolytes, NPO
nutrition consult
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: PIV x2, A line
   .
   # Code: Full Code
   .
   # Communication: with patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-10-6**] 10:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2131-10-09 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Self extubated yesterday
   - Flu negative
   Allergies:
   Atenolol
   Wheezing;
   Ms Contin (Oral) (Morphine Sulfate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2131-10-8**] 10:10 AM
   Cefipime - [**2131-10-8**] 02:11 PM
   Vancomycin - [**2131-10-9**] 07:46 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-10-9**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2131-10-9**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-9**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 96 (61 - 104) bpm
   BP: 148/72(98) {114/51(75) - 156/114(121)} mmHg
   RR: 23 (6 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,458 mL
                                                                    311 mL
   PO:
             TF:
   IVF:
                                                                  1,398 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                    795 mL
   Urine:
                                                                  2,080 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -622 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 894 (894 - 894) mL
   PS : 10 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.41/43/81.[**Numeric Identifier **]/30/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   164 K/uL
   125 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   17 mg/dL
   104 mEq/L
   141 mEq/L
   39.0 %
   8.2 K/uL
        [image002.jpg]
                            [**2131-10-6**]  07:24 PM
                            [**2131-10-6**]  11:11 PM
                            [**2131-10-7**]  01:05 AM
                            [**2131-10-7**]  02:12 AM
                            [**2131-10-7**]  04:14 AM
                            [**2131-10-8**]  03:36 AM
                            [**2131-10-8**]  11:48 AM
                            [**2131-10-8**]  03:22 PM
                            [**2131-10-8**]  05:08 PM
                            [**2131-10-9**]  04:50 AM
   WBC
   12.5
   14.9
   8.2
   Hct
   39.9
   39.0
   39.0
   Plt
   164
   183
   164
   Cr
   0.8
   0.7
   0.5
   TropT
   0.01
   0.04
   TCO2
   36
   40
   37
   29
   26
   28
   Glucose
   187
   100
   125
   Other labs: CK / CKMB / Troponin-T:90/10/0.04, Lactic Acid:0.8 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR - Bibasilar opacities stable.
   Microbiology: Sputum culture [**10-6**]- Strep pneumo. Flu negatie. All
   other cultures negative to date or pending.
   Assessment and Plan
   66 y/o M w/ COPD exacerbation and superimposed b/l LL PNA, now
   intubated for respiratory distress.
   # COPD:  Worsened while on floor, possibly due to new lower lobe
   infiltrate.  Intubated due to worsening mental status and inability to
   tolerate BiPAP
   - Continue steroids
 taper to pred 60 daily, Albuterol nebs q3h, Ipra
   q6h,
   - Vanco, cefepime, levoflox for LLL infiltrate
   - F/U sputum culture, viral swabs
   - Consider trial of PSV 5/5 with lightened sedation
   # Hyperlipidemia
 Continue Lipitor
   # Gout:  On allopurinol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-10-6**] 10:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes